US08022206B2
8-Methyl-3-(trimethylstannyl)-8-azabicyclo[3.2.1]oct-2-ene
The compound was prepared from 8-methyl-8-azabicyclo[3.2.1]octan-3-one as described above for 1-tert-Butyl-1,2,3,6-tetrahydro-4-(trimethylstannyl)pyridine.

reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-one | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | 1-tert-Butyl-1,2,3,6-tetrahydro-4-(trimethylstannyl)pyridine | C(C)(C)(C)N1CCC(=CC1)[Sn](C)(C)C
product | 8-Methyl-3-(trimethylstannyl)-8-azabicyclo[3.2.1]oct-2-ene | CN1C2C=C(CC1CC2)[Sn](C)(C)C | InChI=1S/C8H12N.3CH3.Sn/c1-9-7-3-2-4-8(9)6-5-7;;;;/h3,7-8H,4-6H2,1H3;3*1H3;
